US07196080B2
Using 1-benzyloxycarbonyl-4-(t-butoxycarbonyl)-piperazine-2-carboxylic acid and morpholine, 1-benzyloxycarbonyl-4-(t-butoxycarbonyl)-2-[(morpholin-4-yl)carbonyl]piperazine was obtained in a similar manner to Example 4 to be mentioned below. In ethyl acetate, a 4M hydrogen chloride/ethyl acetate solution was added thereto and the whole was reacted to obtain 1-benzyloxycarbonyl-2-[(morpholin-4-yl)carbonyl]piperazine. The compound was heated to reflux for 1 day in toluene in the presence of bromobenzene, tris(dibenzylideneacetone)dipalladium(0), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl and sodium t-butoxide to obtain 1-benzyloxycarbonyl-2-morpholinocarbonyl-4-phenylpiperazine. Further, thus obtained compound was stirred at room temperature for 1.5 days in ethanol in the presence of 10% palladium/carbon under a hydrogen atmosphere of normal pressure. After filtration of insoluble matter, the residue obtained by evaporation of the solvent was dissolved in ethanol, 10% palladium/carbon and ammonium formate were added thereto, and the whole was stirred at an oil bath temperature of 70° C. for 2.5 days to obtain an objective compound.

reactant | 1-benzyloxycarbonyl-4-(t-butoxycarbonyl)-piperazine-2-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)O | C18H24N2O6
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 1-benzyloxycarbonyl-4-(t-butoxycarbonyl)-2-[(morpholin-4-yl)carbonyl]piperazine | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)N1CCOCC1 | C22H31N3O6
